US04937245
4-[4,4-bis(p-fluorophenyl)butyl]-1-(2-pyridyl)-piperazine dihydrochloride
3.3 g (0.01 mole) of 1-chloro-4,4-bis(p-fluorophenyl)butane, 3.3 g (0.02 mole) of 1-(2-pyridyl)-piperazine and 0.05 g of KI were refluxed in 15 ml of toluene for 48 h. After cooling and addition of ether (30 ml) 1-(2-pyridyl)-piperazine hydrochloride precipitated and was filtered off. After subsequent washing several times with H2O the organic layer was dried with K2CO3. Evaporation of the solvent yielded the crude base. This was dissolved in ether and HCl in EtOH was added to precipitate the hydrochloride. Recrystallization from EtOAc/EtOH yielded 3.2 g (67%) of the title compound (2:1), m.p. 224°-27° C.

reactant | 1-chloro-4,4-bis(p-fluorophenyl)butane | 0.01 mole, 3.3 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 1-(2-pyridyl)-piperazine | 0.02 mole, 3.3 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | HCl | Cl | ClH
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | EtOH | CCO | C2H6O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 4-[4,4-bis(p-fluorophenyl)butyl]-1-(2-pyridyl)-piperazine dihydrochloride | 3.2 g, 67% | Cl.Cl.FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=NC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C25H27F2N3.2ClH/c26-22-10-6-20(7-11-22)24(21-8-12-23(27)13-9-21)4-3-15-29-16-18-30(19-17-29)25-5-1-2-14-28-25;;/h1-2,5-14,24H,3-4,15-19H2;2*1H
